Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Details obtained from ___ note. Also obtained history 
from wife and daughter which corroborates story below. 

Mr. ___ is a ___ year old ___ male with a pmh of 
frontotemporal dementia, parkinsonism, paranoid schizophrenia, 
GERD, and chronic Hep C who presented from ___ with 
recurrent fevers since ___ without a clear source.

He has become more weak, and decreased in mobility. He had mild 
resp symptoms with a weak cough: Chest X-ray negative (concern 
for ongoing aspiration, and new inability to chew his food). CBC 
with WBC of 11. UA benign per report. Flu swab was negative and 
he was empirically treated with Tamiflu. Yesterday he was given 
one dose of Levaquin 500 mg empirically, but today remained 
febrile to 102 rectally.        

Baseline status with very diminished: difficulties with 
mobility, needs to be fed, could walk with assistance from his 
room to the dining room, but stopped about 3 weeks ago per CAN. 
He can barely answer ___ questions, with yes or no at baseline. 
He is stiff, immobile most times, and incontinent.

Chest X-ray stat today:
FINDINGS:  One portable view. Comparison with the previous study 
done ___. Lung volumes are low and there is motion 
artifact. Minimal streaky density at the lung bases consistent 
with subsegmental atelectasis persists. The lungs appear 
otherwise clear. The heart and mediastinal structures are 
unchanged. The bony thorax is grossly intact.             

IMPRESSION: Limited study demonstrating no acute change. 

In the ED, initial vitals: 100 99 130/89 28 96% 2L Nasal 
Cannula. Temperature reached as high as 103.1. He was given 
tylenol, Cipro, and a foley was placed. A head CT and CXR were 
performed and were unremarkable. Vitals prior to transfer: 99.9 
88 123/84 26 95% 

Currently, he is rigid. Tracking me with his eyes around the 
room. Mouth open. Non conversant. 
  
ROS: unable to obtain.

 
Past Medical History:
Parkinsonism (failed trial of sinemet)
Insomnia
Chronic Hepatitis C
BPH
Senile depressive disorder
Asthma
GERD
Aspiration (chronic)
Frontotemporal dementia
Paranoid Schizophrenia

 
Social History:
___
Family History:
Not pertinent to this hospitalization. 
 
Physical Exam:
Admission:
VS - Temp 99.4F, BP 129/82, HR 87, R 18, O2-sat 98% 2L  
GENERAL - NAD tracking, but not moving. Not following commands 
HEENT - NC/AT, PERRLA, EOMI, dry MM, mouth agape, OP clear  
NECK - supple, no thyromegaly, no JVD
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
warm peripherally  
SKIN - no rashes or lesions
NEURO - Tracking with eyes, downgoing babinski, 1+ reflexes in 
the biceps and patella, cogwheeling in the upper extremities, 
and increased tone in the lower extremities. Masked facies.

Discharge: 
VS - Tm /Tc 97.6F, BP 106/67, HR 81, R 18, O2-sat 98% 2L  
GENERAL - NAD tracking, but not moving. Not following commands 
HEENT - NC/AT, PERRLA, EOMI, dry MM, mouth agape, OP clear  
NECK - supple, no thyromegaly, no JVD
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG
LUNGS - CTAB anteriorly, does not take deep inspirations
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
warm peripherally  
SKIN - no rashes or lesions
NEURO - Tracking with eyes, downgoing babinski, 1+ reflexes in 
the biceps and patella, cogwheeling in the upper extremities, 
and increased tone in the lower extremities. Masked facies.
 
Pertinent Results:
Admission Labs: 
___ 03:20PM BLOOD WBC-15.3*# RBC-4.97 Hgb-16.3 Hct-49.9 
MCV-100*# MCH-32.8* MCHC-32.7 RDW-12.6 Plt ___
___ 03:20PM BLOOD Glucose-112* UreaN-30* Creat-1.2 Na-150* 
K-3.9 Cl-115* HCO3-25 AnGap-14
___ 07:10AM BLOOD Calcium-8.3* Phos-2.6* Mg-2.1

Discharge Labs:
___ 07:25AM BLOOD WBC-9.1 RBC-4.17* Hgb-14.2 Hct-41.7 
MCV-100* MCH-34.0* MCHC-34.0 RDW-13.1 Plt ___
___ 07:25AM BLOOD Glucose-113* UreaN-23* Creat-0.8 Na-142 
K-3.6 Cl-111* HCO3-23 AnGap-12
___ 07:25AM BLOOD Calcium-8.2* Phos-2.5* Mg-2.1

CXR:
FINDINGS: A frontal view of the chest was obtained portably.  
Low lung volumes results in bronchovascular crowding.  There is 
no focal consolidation, pleural effusion or pneumothorax. 
Pulmonary vasculature is normal. Heart size is normal.  The 
aorta is tortuous.   
  
IMPRESSION: No acute cardiopulmonary process. 

CT Head: 
FINDINGS: There is no acute intracranial hemorrhage, edema, mass 
effect or major vascular territorial infarct.  Ventricles and 
sulci are more prominent than in ___ and compatible with global 
age-related volume loss.  There is no shift of normally midline 
structures.  Basal cisterns are preserved.  Gray-white matter 
differentiation is preserved.  Mild hypoattenuation in the left 
subinsular region is likely sequelae of chronic microvascular 
ischemic disease.  No osseous abnormality is identified.  The 
visualized paranasal sinuses are clear.  The right mastoid air 
cells are under developed.  The left mastoid air cells are 
clear. 
  
IMPRESSION: No acute intracranial process. 

Microbiology:
URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:20 pm SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Preliminary): 
      Further incubation required to determine the presence or 
absence of
      commensal respiratory flora. 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

___ 8:47 pm STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

Blood culture x4 no growth to date. Final pending.

 
Brief Hospital Course:
Mr. ___ is a ___ year old ___ male with a pmh of 
frontotemporal dementia, parkinsonism, paranoid schizophrenia, 
GERD, and chronic Hep C who presented from ___ with 
recurrent fevers since ___ without a clear source.
  
# Fever. Currently with a negative work-up. There were several 
concerns. He had a leukocytosis and fever to 103 in the ED, WBCs 
on his UA, with concern for chronic aspiration and a midline 
line IV in place on admission. Blood, lung, and urine were all 
potential sources. He had cultures sent for all three sources 
and had been covered with levo, flagyl, and vanc at his NH. His 
urine culture was negative, sputum grew yeast and respiratory 
flora and his blood cultures were NGTD at discharge. He was 
initially covered broadly with vanc and imipenem out of concern 
for aspiration, but CXR and sputum pointed away from this. He 
was narrowed after 48 hours to Ciprofloxacin and remained 
afebrile. His midline was removed. 

# Hyponatremia. 150 on admission, likely from decrease in PO 
intake, and inability to access free water with increased 
insensible losses. He was given 2L NS in the ED and Repleted 
with D5W at 125cc/hr which corrected his sodium to 143. He was 
able to take fluids PO without coughing. He will need a formal 
speech and swallow evaluation to determine what he will be able 
to take by mouth going forward. 

# Frontotemporal dementia/Parkinsonism. He failed a trial of 
treatment in the past with worsening psychosis on 
antiParkinsonian meds. Currently on bupropion and mirtazapine 
and treating insomnia with lorazepam.

# Somnolence: Unclear etiology during his stay. He had waxing 
and waning and the differential included hypoactive delirium 
complicated by acute illness. Also likely a medication effect. 
He had received metoclopramide standing during admission. This 
was discontinued for somnolence. His psychiatric medications 
were also held for 1 dose and bupropion was halved in dosing to 
37.5mg BID, with mirtazapine and lorazepam being made prn due to 
somnolence. As he continues to clinically improve his 
medications can be uptitrated as he tolerates to his regular 
dosing. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PO/PR 3X/WEEK (___) 
2. Polyethylene Glycol 17 g PO DAILY 
3. BuPROPion 75 mg PO BID 
4. Mirtazapine 30 mg PO HS 
5. Lorazepam 0.5 mg PO HS 
6. Omeprazole 20 mg PO DAILY 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob/wheeze 
8. Guaifenesin-Dextromethorphan 10 mL PO Q6H:PRN cough 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. Metoprolol Tartrate 25 mg PO BID 
11. Polytrim *NF* (trimethoprim-polymyxin B) 0.1-10,000 
%-unit/mL ___ BID 
12. Acetylcysteine 20% ___ mL NEB BID 
13. Acetaminophen 650 mg PO Q8H 
14. Metoclopramide 10 mg PO TID with meals 
15. Levofloxacin 500 mg IV Q24H 
16. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H 
17. Vancomycin 1000 mg IV Q 24H 
18. Ibuprofen 400 mg PO Q8H:PRN pain/fever 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob/wheeze 
2. Bisacodyl 10 mg PO/PR 3X/WEEK (___) 
3. BuPROPion 37.5 mg PO BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Metoprolol Tartrate 25 mg PO BID hold for SBP <100, HR <60
6. Mirtazapine 30 mg PO HS:PRN insomnia 
7. Omeprazole 20 mg PO DAILY 
8. Ciprofloxacin 400 mg IV Q12H Duration: 4 Days 
9. Acetaminophen 650 mg PO Q8H 
10. Acetylcysteine 20% ___ mL NEB BID 
11. Guaifenesin-Dextromethorphan 10 mL PO Q6H:PRN cough 
12. Ibuprofen 400 mg PO Q8H:PRN pain/fever 
13. Lorazepam 0.5 mg PO HS 
14. Polyethylene Glycol 17 g PO DAILY 
15. Polytrim *NF* (trimethoprim-polymyxin B) 0.1-10,000 
%-unit/mL ___ BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
UTI 
Frontotemporal dementia 
___ 

 
Discharge Condition:
Mental Status: Eye's open, tracks, unresponsive otherwise
Level of Consciousness: Alert with periods of somnolence
Activity Status: bedbound

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking part in your care. You were admitted to 
___ for fevers. We tested your sputum, blood, and urine for 
infection. All of these cultures were negative, or without 
growth at the time of your discharge. You were initially covered 
with broad spectrum antibiotics for fever of 103. However, your 
fevers broke and you were treated with Ciprofloxacin, and you 
will require 7 days total of antibiotics. 

The midline IV in your right arm was discontinued out of concern 
that this was the source of your infection. 

You also had periods of somnolence that was likely related to 
your acute illness and medications. 
 
Followup Instructions:
___